US05216148
43.0 g of diethyl dimethylmalonate and thereafter 24.7 g of o-phenylenediamine were added to a sodium ethylate solution freshly prepared from 10.5 g of sodium and 400 ml of abs. ethanol under argon. The reaction mixture was heated continuously to 180° C. in the course of 2 hours, whereby ethanol was distilled off continuously. After cooling the dried residue was triturated with dilute hydrochloric acid, the precipitate was filtered off and washed with water and ethanol. After drying in a high vacuum there were obtained 30.2 g of 2,3,4,5-tetrahydro-3,3-dimethyl-2,4-dioxo-1H-1,5-benzodiazepine as a brownish powder, m.p.>270° C. This product was added portionwise under argon to 17.0 g of sodium hydride (about 55%) in 300 ml of abs. dimethylformamide at 0° C. After the exothermic reaction had faded away 27.6 ml of methyl iodide were added and the reaction mixture was warmed to room temperature. Thereafter, it was poured on ice and extracted with ethyl acetate. The extract was washed with water and saturated sodium chloride solution, dried and concentrated up to crystallization. There were obtained 29.5 g of 2,3,4,5-tetrahydro-1,3,3,5-tetramethyl-2,4-dioxo-1H-1,5-benzodiazepine, m.p. 159°-160° C.

reactant | diethyl dimethylmalonate | 43.0 g | CC(C(=O)OCC)(C(=O)OCC)C | C9H16O4
reactant | o-phenylenediamine | 24.7 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | sodium ethylate solution | CC[O-].[Na+]
reactant | sodium | 10.5 g | [Na] | Na
solvent | ethanol | C(C)O | C2H6O
product | 2,3,4,5-tetrahydro-3,3-dimethyl-2,4-dioxo-1H-1,5-benzodiazepine | 30.2 g | CC1(C(NC2=C(NC1=O)C=CC=C2)=O)C | C11H12N2O2
